US08012976B2
8-(4-((Dimethylamino)methyl)phenyl)-5-fluoro-9-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one
A mixture of compound ethyl 2-(4-((dimethylamino)methyl)phenyl)-7-fluoro-4-oxo-3-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate (80 mg, 0.18 mmol) in 85% hydrazine monohydrate (1 mL) and methanol (5 mL) was stirred at room temperature for 4 h. The solvent was removed in vacuum; the crude product was purified by chromatography to obtain the title compound as a yellow solid (22 mg, yield 30%). LC-MS (ESI) m/z: 415 (M+1)+. 1H-NMR (400 MHz, DMSO-d6) δ (ppm): 2.14 (s, 6H), 3.36 (s, 2H), 4.18-4.21 (d, J=8.8 Hz, 1H), 4.67-4.69 (d, J=9.2 Hz, 1H), 6.81-6.84 (m, 1H), 6.99-7.01 (m, 2H), 7.08-7.19 (m, 8H).

reactant | ethyl 2-(4-((dimethylamino)methyl)phenyl)-7-fluoro-4-oxo-3-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate | 0.18 mmol, 80 mg | CN(C)CC1=CC=C(C=C1)C1NC=2C=C(C=C(C2C(C1C1=CC=CC=C1)=O)C(=O)OCC)F | C27H27FN2O3
reactant | hydrazine monohydrate | 1 mL | O.NN
solvent | methanol | 5 mL | CO | CH4O
product | 8-(4-((Dimethylamino)methyl)phenyl)-5-fluoro-9-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 22 mg, yield 30% | CN(C)CC1=CC=C(C=C1)C1C(C2=NNC(C=3C=C(C=C(C23)N1)F)=O)C1=CC=CC=C1 | C25H23FN4O
